US04414388
Diethylthiazole hydrochloride (15.4 g., 80 mmoles), diethyl ethoxymethylenemalonate (19.0 g., 88 mmoles), triethylamine (8.1 g., 80 mmoles) and ethanol (125 ml.) were combined and refluxed for 2.5 hours. The reaction mixture was cooled and stripped of solvent. The resulting semisolid product was distributed between ethyl acetate and water. The 2-(2,2-dicarbethoxyethenylamino)-4,5-diethylthiazole (28.6 g.) was obtained as a golden oil from the ethyl acetate phase by drying over anhydrous sodium sulfate and stripping.

reactant | Diethylthiazole hydrochloride | 80 mmoles, 15.4 g | Cl.C(C)C=1N=C(SC1)CC
reactant | diethyl ethoxymethylenemalonate | 88 mmoles, 19.0 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | triethylamine | 80 mmoles, 8.1 g | C(C)N(CC)CC | C6H15N
reactant | ethanol | 125 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-(2,2-dicarbethoxyethenylamino)-4,5-diethylthiazole | 28.6 g | C(=O)(OCC)C(=CNC=1SC(=C(N1)CC)CC)C(=O)OCC | C15H22N2O4S
